Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia/altered mental status/cough
 
Major Surgical or Invasive Procedure:
There were no major surgical or invasive procedures during 
hospitalization. 

 
History of Present Illness:
___ with history of dementia, hypertention, diabetes presenting 
with lethargy, cough for one week, noted to have a pneumonia on 
a chest x-ray at ___ yesterday. Patient was started on 
azithromycin for this by basilar pneumonia. Patient is in a 
memory unit. At this unit, they do have access to 
rehabilitation. Patient normally uses a walker. Because of the 
weakness for the past one week, the patient has been using a 
wheelchair. Patient's thought his medical care in ___, 
and never establish primary care in ___, the doctor at 
his facility has been continuing medications from his doctor in 
___. Daughter concerned that the patient is not 
receiving adequate attention at facility. Doctor at facility 
concerned that glucose 367 today. Low 200s here. Patient denies 
complete ROS. A&Ox1. Patient sent to ___ for further 
evaluation.  
 
 -In the ED, initial vitals were: T 98.7 HR 80 BP 136/91 RR 18 
SpO2 97% RA  
 -Exam notable for: bibasilar crackles, otherwise normal exam  
 -Labs notable for WBC 9.0, Cr 0.8, lactate 2.7  
 -CXR was notable LLL opacity concerning for PNA  
 -Received: 1 L IV NS, Levofloxacin 750 mg IV, Olanzapine 10 mg 
PO total, and his home medications (Metformin, Memantine, 
Aspirin, Glipizide, Lisinopril  
 -Transfer VS were: T 102.4 HR 102 BP 128/75 RR 23 SpO2 95% RA  
 -On arrival to the floor, the patient unable to engage in ROS 
evaluation. Patient appeared to be sleeping comfortably. He was 
continued on IV abx, his home medications, and started on 
insulin sliding scale.  
 On arrival to the floor, patient was sleeping comfortably, not 
responsive to voice and unable to participate in ROS. Family 
members were in the room who reports the patient has been 
complaining of cough and more lethargic compared to baseline 
mental status. The patient was given 1 L IV fluids, continued on 
IV abx, started on insulin sliding scale, but otherwise 
continued on his home medications.  
 
Past Medical History:
-Hypertension
-Hyperlipidemia
-Dementia
-Type II Diabetes Mellitus
-___: hospitalized at ___ due to hyperglycemia secondary to 
underlying pneumonia. 
 
Social History:
___
Family History:
Father had CAD and died of MI. Mother had stomach cancer  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
VS T 98.3 BP 153/84 HR 95 RR 20 SpO2 98 RA  
General: Sleeping comfortably, snoring, does not respond to 
voice  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: L basilar inspiratory crackles, no wheezing or rhonci  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: Foley in place  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM
======================
Vitals:     98.4   122/75  82  18  94RA 
General: Awake, alert and oriented x 1 (to person)
HEENT: Sclerae anicteric, MMM, neck supple, JVP not elevated. 
CV: RRR, normal S1 + S2, no murmurs. 
Lungs: Clear to auscultation  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no rebound or guarding. 
Ext: Warm, well perfused, no lower extremity edema.  
 
Pertinent Results:
ADMISSION LABS
=============
___ 08:02PM BLOOD WBC-7.3 RBC-3.87* Hgb-12.8* Hct-37.4* 
MCV-97 MCH-33.1* MCHC-34.2 RDW-13.2 RDWSD-46.6* Plt ___
___ 08:02PM BLOOD Neuts-63.4 Lymphs-16.3* Monos-15.0* 
Eos-4.1 Baso-0.7 Im ___ AbsNeut-4.64 AbsLymp-1.19* 
AbsMono-1.10* AbsEos-0.30 AbsBaso-0.05
___ 08:02PM BLOOD Glucose-203* UreaN-17 Creat-0.8 Na-134 
K-4.2 Cl-94* HCO3-28 AnGap-16
___ 09:00PM BLOOD Calcium-9.3 Phos-3.7 Mg-1.6

DISCHARGE LABS
=============
___ 06:45AM BLOOD WBC-5.6 RBC-3.99* Hgb-12.7* Hct-38.5* 
MCV-97 MCH-31.8 MCHC-33.0 RDW-13.1 RDWSD-46.5* Plt ___
___ 06:45AM BLOOD Glucose-288* UreaN-15 Creat-0.8 Na-142 
K-4.5 Cl-101 HCO3-22 AnGap-24*
___ 06:45AM BLOOD Calcium-9.0 Phos-2.9 Mg-1.8

HEMOGLOBIN A1C
==============
___ 09:15AM BLOOD %HbA1c-8.0* eAG-183*

URINE STUDIES
============
___ 11:03PM URINE Color-Straw Appear-Clear Sp ___
___ 11:03PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-150 Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 11:03PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-0

MICROBIOLOGY
============
___: BLOOD CULTURE X 2: PENDING.
___: BLOOD CULTURE X 1: PENDING.

___ 4:40 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING
=======
IMPRESSION: 
Left lower lobe opacity may reflect pneumonia.  Comparing with 
prior
radiograph would be helpful to determine progression or 
improvement.

 
Brief Hospital Course:
___ year old gentleman with history of dementia, hypertension, 
and diabetes presenting with lethargy found to have LLL PNA 
complicated by hyperglycemia.

# Community Acquired Left Lower Lobe Pneumonia: Patient was 
initially treated as an outpatient with azithromycin for 
suspected pneumonia, however, hyperglycemia ensued in the 
setting of pneumonia leading to admission to ___ (patient 
lives in a memory unit at ___ on ___ and they were 
concerned regarding his hyperglycemia). CXR at ___ confirmed 
left lower lobe pneumonia. He initially was started on 
levofloxacin and was subsequently transitioned to ceftriaxone 
and azithromycin. On admission, required supplemental O2 (up to 
3L) but was quickly weaned back to room air. He was asymptomatic 
with normal saturation on room air for 3 days at the time of 
discharge, at which point he had taken 6 days of antibiotics and 
the decision was made to end his course.

# Type II Diabetes Mellitus Complicated by Hyperglycemia: At 
Memory unit at ___ on the ___ patient had blood sugars 
in the high 300s. Given concern for the hyperglycemia, was 
transferred to ___ for evaluation. As noted above, etiology of 
the hyperglycemia was in the setting of pneumonia. At his 
facility he is on metformin 1000 mg PO BID and glipizide 2.5 mg 
PO daily. Initially, these were held and he was continued 
insulin sliding scale. He resumed his home glipizide and 
metformin. He remained hyperglycemia, so sitagliptin was added 
and metformin and glipizide were increased. He continued to 
require sliding scale insulin at discharge.

During hospitalization, his hemoglobin A1C was noted to be 8.0%. 


As insulin administration in the Memory Unit at his facility is 
somewhat complicated, an attempt was made to develop an oral 
diabetes regimen. ___ Diabetes was consulted for further 
recommendations. They recommended the above regimen with a plan 
to increase his oral agents and try to wean off the sliding 
scale. If he is unable, the ___ clinic can change him to a 
basal bolus insulin regimen and rehab providers and family can 
determine how this will impact his living situation.

# Hypertension: Continued lisinopril 30 mg PO daily.

# Dementia: Alert and oriented x 1 at baseline. Continued 
meantime 5 mg PO BID. His home ___ was not on formulary at 
the hospital. He was discharged on memantine 5 mg PO BID and 
galantine 16 mg PO daily. 

TRANSITIOANL ISSUES
=================
Transitional Issues:
- needs vitamin D checked as an outpatient
- ___ follow up
- Patient was persistently hyperglycemic on metformin, 
glipizide, Januvia. Insulin sliding scale was added to the 
regimen. We recommend gradually increasing his glipizide and 
tapering down his sliding scale to get him off insulin and 
hopefully transition back to the memory unit. If he is unable to 
come off the insulin, the ___ clinic can transition him to a 
basal/bolus insulin regimen at his follow up appointment and if 
this is a barrier to returning to the memory unit, his long term 
residential situation will need to be re-addressed with family. 
- Code Status: DNR/DNI (confirmed, has MOLST)  
- Contact Information: ___ (___ ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. galantamine 16 mg oral QDaily 
4. GlipiZIDE 2.5 mg PO DAILY 
5. Lisinopril 30 mg PO DAILY 
6. Memantine 5 mg PO BID 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Vitamin D ___ UNIT PO Q21DAYS 

 
Discharge Medications:
1.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using HUM Insulin 
2.  Januvia (SITagliptin) 100 mg oral DAILY  
3.  GlipiZIDE 5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 10 mg PO QPM  
6.  galantamine 16 mg oral QDaily  
7.  Lisinopril 30 mg PO DAILY  
8.  Memantine 5 mg PO BID  
9.  MetFORMIN (Glucophage) 1000 mg PO BID  
10.  Vitamin D ___ UNIT PO Q21DAYS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
-Community Acquired Pneumonia
-Type II Diabetes Mellitus
-Dementia 
-Hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
you were noted to have elevated blood sugars. You were also 
noted to have a pneumonia. The reason for the elevated blood 
sugars was likely secondary to the underlying pneumonia. 

You initially required oxygen but after receiving intravenous 
antibiotics, you were able to breath comfortably on room air. 

in order to better control your blood sugars and optimize you on 
an oral medication regimen to control your blood sugars, you 
were seen by the Diabetes specialists at ___. They 
recommended continuing with metformin, glipizide and 
sitagliptin. You will remain on sliding scale insulin for now. 
This will be stopped if recovery from your illness or increased 
doses of your oral medications will allow. 

Best Wishes,
Your ___ Care Team 
 
Followup Instructions:
___